US08314250B2
A solution of 4-chloro-2-fluoro-1-methoxy-benzene (Aldrich; 10.2 g, 63.5 mmol) in dry tetrahydrofuran (500 mL) was cooled to −78° C. under a nitrogen atmosphere. A solution of lithium diisopropylamide (1.8 M in tetrahydrofuran/heptane/ethylbenzene, 39.9 mL, 70.2 mmol) was added dropwise by syringe. The reaction mixture was warmed to −55° C. and held at this temperature for 1 h. The mixture was then cooled again to −78° C., and dry N,N-dimethylformamide (10.7 mL, 139 mmol) was added by syringe. The cooling bath was removed and the reaction was allowed to warm to −10° C. and quenched by the addition of ice flakes (˜200 mL) and a solution of saturated ammonium chloride (200 mL). Ethyl acetate (200 mL) was added, the layers were separated and the aqueous later was extracted with ethyl acetate (200 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, evaporated, and purified by silica gel chromatography, eluting with 0-30% ethyl acetate/hexanes to give 6-chloro-2-fluoro-3-methoxy-benzaldehyde (5.6 g, 47% yield) as an oil that solidified upon standing.

reactant | 4-chloro-2-fluoro-1-methoxy-benzene | 63.5 mmol, 10.2 g | ClC1=CC(=C(C=C1)OC)F | C7H6ClFO
reactant | lithium diisopropylamide | 70.2 mmol, 1.8 M, 39.9 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | N,N-dimethylformamide | 139 mmol, 10.7 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 6-chloro-2-fluoro-3-methoxy-benzaldehyde | 5.6 g, 47% yield | ClC1=CC=C(C(=C1C=O)F)OC | C8H6ClFO2
